US05780642
A mixture of 4-chloro-2,5-dimethylbenzenethiol (17.25 g), 2-amino-2-methylpropanol (8.9 g), propionic acid (7.4 g) and toluene (50 ml) was reacted to give a solid which was recrystallised from petroleum ether, b.p. 60°-80° C. to give N-[2-(4-chloro-2,5-xylylthio)-1,1-dimethylethyl]propionamide, m.p. 78°-81° C. This product (15.0 g) and concentrated hydrochloric acid (18 ml) were boiled under reflux for 25 hours give an oil which was purified by flash column chromatography on silica using ethyl acetate and then ethyl acetate/methanol (4:1) as the mobile phase to give 2-(4-chloro-2,5-xylylthio)-1,1-dimethylethylamine as an oil.

reactant | 4-chloro-2,5-dimethylbenzenethiol | 17.25 g | ClC1=CC(=C(C=C1C)S)C | C8H9ClS
reactant | 2-amino-2-methylpropanol | 8.9 g | NC(CO)(C)C | C4H11NO
reactant | propionic acid | 7.4 g | C(CC)(=O)O | C3H6O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N-[2-(4-chloro-2,5-xylylthio)-1,1-dimethylethyl]propionamide | ClC1=CC(=C(C=C1C)SCC(C)(C)NC(CC)=O)C | C15H22ClNOS
